US05066662
Step D: Preparation of 3-Ethyl-4-(4-pyridinylmethyl)-2-oxazolidinone
Crude α-(ethylamino)-4-pyridinepropanol (2.07 g, 0.0122 mol) is stirred in dry tetrahydrofuran (20 mL) with activated 3Å sieves for about 10 minutes. Carbonyldiimidazole (2.26 g, 0.0139 mol) is added and the mixture is stirred at room temperature overnight. The reaction mixture is concentrated and Kugelrohr distilled at 80-100° C. and 2 mm Hg to remove excess imidazole. The residue is chromatographed on silica gel eluting with 10:1 chloroform:methanol to afford 1.7 g of the title compound as an amber oil.

reactant | α-(ethylamino)-4-pyridinepropanol | 0.0122 mol, 2.07 g | C(C)NC(CCC1=CC=NC=C1)O | C10H16N2O
reactant | Carbonyldiimidazole | 0.0139 mol, 2.26 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-Ethyl-4-(4-pyridinylmethyl)-2-oxazolidinone | 1.7 g | C(C)N1C(OCC1CC1=CC=NC=C1)=O | C11H14N2O2
